US06949542B2
{2-Dimethylamino-2′-fluoro-5-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester
The title compound was prepared from (5-amino-2-dimethylamino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert-butyl ester (Example J10) (271 mg, 0.78 mmol) and 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester (Example K2) (194 mg, 0.65 mmol) according to the general procedure M. Obtained as a yellow solid (316 mg).

reactant | (5-amino-2-dimethylamino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert-butyl ester | 0.78 mmol, 271 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1N)C1=C(C=CC=C1)F)N(C)C)=O | C19H24FN3O2
reactant | 3-oxo-3-(3-pyridin-4-yl-phenyl)-propionic acid tert-butyl ester | 0.65 mmol, 194 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O | C18H19NO3
product | {2-Dimethylamino-2′-fluoro-5-[3-oxo-3-(3-pyridin-4-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(C1=CC(=CC=C1)C1=CC=NC=C1)=O)=O)C1=C(C=CC=C1)F)N(C)C)=O | C33H33FN4O4
